US06491994B1
100 g of montmorillonite having an average thickness of the silicate layer unit of 0.95 nm and a size of about 0.1 μm was dispersed in 10 liter of water, to which 51.2 g of 12-aminododecanoic acid and 24 ml of a concentrated hydrochloric acid were added. The mixture was stirred for 5 minutes, and dried under vacuum to obtain a composite of ammonium 12-aminododecanoate ions and montmorillonite. The layer distance of the layered silicate particles (the weight center distance of the particles) in the obtained composite was measured by an X-ray diffraction to be 1.8 nm.

reactant | 12-aminododecanoic acid | 51.2 g | NCCCCCCCCCCCC(=O)O | C12H25NO2
reactant | hydrochloric acid | 24 ml | Cl | ClH
solvent | water | 10 liter | O | H2O
product | ammonium 12-aminododecanoate | NCCCCCCCCCCCC(=O)[O-].[NH4+] | InChI=1S/C12H25NO2.H3N/c13-11-9-7-5-3-1-2-4-6-8-10-12(14)15;/h1-11,13H2,(H,14,15);1H3
